US04377695
11-(2-Oxo-3-phenyl-benzimidazolin-1-yl)-undecanoic acid
The product is produced as described in example 22 from 11 g. of 11-(2-oxo-3-phenyl-benzimidazolin-1-yl)-undecanoic acid methyl ester and 1.2 g. of NaOH.

reactant | 11-(2-oxo-3-phenyl-benzimidazolin-1-yl)-undecanoic acid methyl ester | COC(CCCCCCCCCCN1C(N(C2=C1C=CC=C2)C2=CC=CC=C2)=O)=O | C25H32N2O3
reactant | NaOH | [OH-].[Na+]
product | 11-(2-Oxo-3-phenyl-benzimidazolin-1-yl)-undecanoic acid | O=C1N(C2=C(N1CCCCCCCCCCC(=O)O)C=CC=C2)C2=CC=CC=C2 | C24H30N2O3
